US09371319B2
Preparation 88: 2-Chloro-4-(pyridin-3-yl)aniline
Prepared according to Method C (Preparation 85) using 4-bromo-2-chloroaniline and pyridin-3-ylboronic acid. Purified using Biotage silica gel column chromatography eluting with DCM/EtOH 99/1 to 97/3 and filtered on SCX-2 column to afford the title product as a yellow oil (93 mg, 94%). 1H NMR (500 MHz, CDCl3): δ 3.96 (br s, 2H), 6.87 (d, J=8.2 Hz, 1H), 7.32 (dd, J=8.2, 2.2 Hz, 1H), 7.35 (ddd, J=7.9, 4.8, 1.0 Hz, 1H), 7.51 (d, J=2.2 Hz, 1H), 7.80 (ddd, J=7.9, 2.3, 1.6 Hz, 1H), 8.54 (dd, J=4.8, 1.6 Hz, 1H), 8.79 (dd, J=2.3, 1.0 Hz, 1H).

reactant | 4-bromo-2-chloroaniline | BrC1=CC(=C(N)C=C1)Cl | C6H5BrClN
reactant | pyridin-3-ylboronic acid | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | 2-Chloro-4-(pyridin-3-yl)aniline | 93 mg, 94% | ClC1=C(N)C=CC(=C1)C=1C=NC=CC1 | C11H9ClN2
